US06156700
Preparation of Ethyl α-cyano-5-nitro-1,2-benzisothiazole-3-acetate
A sodium ethoxide solution (previously prepared from ethanol and sodium (1.00 g, 0.0430 mol)) is cooled with an ice-acetone bath, treated portionwise with ethyl cyanoacetate (4.51 g, 0.0398 mol), stirred at room temperature for 30 minutes, treated with 3-chloro-5-nitro-1,2-benzisothiazole (4.27 g, 0.0199 mol), stirred at room temperature overnight, cooled to 0° C., and treated dropwise with 10% hydrochloric acid (15.0 mL). The resultant aqueous mixture is stirred at room temperature for one hour and filtered to obtain a solid. The solid is washed with ethanol and air-dried to give the title product as a yellow solid which is identified by NMR spectral analysis.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.0430 mol, 1.00 g | [Na] | Na
reactant | ethyl cyanoacetate | 0.0398 mol, 4.51 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 3-chloro-5-nitro-1,2-benzisothiazole | 0.0199 mol, 4.27 g | ClC1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C7H3ClN2O2S
reactant | hydrochloric acid | 15.0 mL | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | Ethyl α-cyano-5-nitro-1,2-benzisothiazole-3-acetate | C(#N)C(C(=O)OCC)C1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C12H9N3O4S
